US05444083
(5) trans-3-Benzyl-4-(3,4-dihydroxyphenyl)-pyrrolidine hydrobromide
0.37 g (1.24 mmol) of trans-3-benzyl-4-(3,4-dimethoxyphenyl)pyrrolidine was dissolved in methylene chloride, and 10 ml of a solution of 1M boron tribromide in methylene chloride was added to the resultant solution. The solution was stirred at room temperature for 3 hr. The reaction mixture was concentrated in vacuo. Further, methylene chloride was added to the concentrate and methanol (3 ml) was dropwise added thereto. The mixture was again concentrated in vacuo. This procedure was repeated several times, and a precipitated crystal was recovered by filtration to prepare 70 mg of a hydrobromide as an intended product (yield: 16%).

reactant | trans-3-benzyl-4-(3,4-dimethoxyphenyl)pyrrolidine | 1.24 mmol, 0.37 g | C(C1=CC=CC=C1)[C@@H]1CNC[C@H]1C1=CC(=C(C=C1)OC)OC | C19H23NO2
reactant | boron tribromide | 1M | B(Br)(Br)Br | BBr3
reactant | hydrobromide | 70 mg | Br | BrH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | trans-3-Benzyl-4-(3,4-dihydroxyphenyl)-pyrrolidine hydrobromide | yield: 16% | Br.C(C1=CC=CC=C1)[C@@H]1CNC[C@H]1C1=CC(=C(C=C1)O)O | InChI=1S/C17H19NO2.BrH/c19-16-7-6-13(9-17(16)20)15-11-18-10-14(15)8-12-4-2-1-3-5-12;/h1-7,9,14-15,18-20H,8,10-11H2;1H/t14-,15+;/m1./s1
